US07378438B2
4-Acetylamino-2,2,6,6-Tetramethyl-piperidin
Acetic anhydride (70 g, 0.686 mol) was added dropwis to an ice cooled solution of 4-Amino-2,2,6,6-Tetramethyl-piperidin (34.6 g. 0.221 mol) in ether (100 ml). After the addition was complete (about 1 h), the reaction mixture was stirred for 30 minutes at room temperature. The precipitated white product, 4-acetylamino-2,2,6,6-Tetramethyl-piperidin (55.6 g, 98%) was filtered off and washed with ether and air dried. m.p. 175° C. subl.

reactant | Acetic anhydride | 0.686 mol, 70 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-Amino-2,2,6,6-Tetramethyl-piperidin | 0.221 mol, 34.6 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-Acetylamino-2,2,6,6-Tetramethyl-piperidin | C(C)(=O)NC1CC(NC(C1)(C)C)(C)C | C11H22N2O
